US04710507
Oxalyl chloride (10.3 cm3) was added dropwise to a stirred solution of 2-methoxyquinoline-6-carboxylic acid (12.0 g) in dichloromethane (100 cm3) and DMF (0.1 g) at 0°. The mixture was warmed to room temperature and after 2 hours volatile material was removed in vacuo. The residue was taken into dichloromethane (100 cm3), cooled to 0° and treated cautiously with aqueous ammonia solution (30 cm3 of S.G. 0.880). After 2 hours the mixture was concentrated in vacuo and the solid residue was recrystallised from isopropanol to afford 2-methoxyquinoline-6-carboxylic acid amide, m.p. 212°-214°, (7.9 g).

reactant | Oxalyl chloride | 10.3 cm3 | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-methoxyquinoline-6-carboxylic acid | 12.0 g | COC1=NC2=CC=C(C=C2C=C1)C(=O)O | C11H9NO3
reactant | DMF | 0.1 g | CN(C)C=O | C3H7NO
solvent | dichloromethane | 100 cm3 | ClCCl | CH2Cl2
product | 2-methoxyquinoline-6-carboxylic acid amide | COC1=NC2=CC=C(C=C2C=C1)C(=O)N | C11H10N2O2
